US08124787B2
Preparation of Ethyl 3-difluoromethyl-1-methyl-1H-pyrazole-4-carboxylate Without Base
A 0.25 mol solution of methylhydrazine 40% diluted in 50.0 g xylene and 4.7 g water was prepared. A solution of 0.25 mol of 2-[1-Ethoxy-meth-(Z)-ylidene]-4,4-difluoro-3-oxo-butyric acid ethyl ester in 100.0 g xylene was added to the methylhydrazine over 30-60 minutes at a temperature of 20-25° C. The reaction mixture was stirred for 15 min. The phases of the reaction mass were separated.

reactant | methylhydrazine | CNN | CH6N2
reactant | water | 4.7 g | O | H2O
reactant | 2-[1-Ethoxy-meth-(Z)-ylidene]-4,4-difluoro-3-oxo-butyric acid ethyl ester | 0.25 mol | C(C)OC(\C(\C(C(F)F)=O)=C/OCC)=O | C9H12F2O4
solvent | xylene | 50.0 g | C=1(C(=CC=CC1)C)C | C8H10
solvent | xylene | 100.0 g | C=1(C(=CC=CC1)C)C | C8H10
product | Ethyl 3-difluoromethyl-1-methyl-1H-pyrazole-4-carboxylate | FC(C1=NN(C=C1C(=O)OCC)C)F | C8H10F2N2O2
